US07226951B2
General Procedure C: 6-Bromo-8-[(cyclopropyl-amino)-methyl]-2,2,4,4-tetramethyl-chroman (Intermediate 7)
A stirred, cooled (ice bath) solution of 6-bromo-2,2,4,4-tetramethyl chroman-8-carbaldehyde (U.S. Pat. No. 6,252,090, 2.4 g, 8.4 mmol) in dichloromethane (10 mL) and acetonitrile (9 mL) was treated with cyclopropyl amine (1.45 mL, 21 mmol). After 5 minutes, acetic acid (1 mL) was added followed by sodium cyanoborohydride (1.33 g, 21 mmol). The reaction mixture was stirred at ambient temperature for 2 h. The volatiles were distilled off in vacuo, the residue was diluted with water and extracted with ethyl acetate (×2). The combined organic extract was washed with water, saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to an oil. Flash column chromatography over silica gel (230–400 mesh) afforded the title compound (1.4 g, 50%) as a clear oil.

reactant | 6-bromo-2,2,4,4-tetramethyl chroman-8-carbaldehyde | BrC=1C=C2C(CC(OC2=C(C1)C=O)(C)C)(C)C | C14H17BrO2
reactant | acetonitrile | 9 mL | C(C)#N | C2H3N
reactant | cyclopropyl amine | 21 mmol, 1.45 mL | C1(CC1)N | C3H7N
reactant | sodium cyanoborohydride | 21 mmol, 1.33 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 6-Bromo-8-[(cyclopropyl-amino)-methyl]-2,2,4,4-tetramethyl-chroman | 1.4 g, 50% | BrC=1C=C2C(CC(OC2=C(C1)CNC1CC1)(C)C)(C)C | C17H24BrNO
